US07781436B2
2-{6-Chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-N-methyl-acetamide
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) 2-chloro-N-methyl-acetamide gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C22H21ClN2O2
reactant | 2-chloro-N-methyl-acetamide | ClCC(=O)NC | C3H6ClNO
product | 2-{6-Chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-N-methyl-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NC)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C25H26ClN3O3
